### PR TITLE
[Merged by Bors] - feat(Data/Tuple/Sort): Permutation is monotone iff its the identity

### PR DESCRIPTION
**Pull request by felixpernegger**
Sort of permutation is its inverse + Permutation is monotone iff its the identity

### CODE REVIEW

**Review by Citronhat — COMMENTED** [review]
...

File: Mathlib/Data/Fin/Tuple/Sort.lean [hunk 1]
```diff
@@ -199,4 +199,23 @@ entries. -/
...
 
+/-- The sorted version of a permutation `σ` is its inverse `σ⁻¹`. -/
+@[simp]
+theorem sort_perm (σ : Equiv.Perm (Fin n)) :
+    sort σ = σ⁻¹ := by
+  apply Eq.symm (eq_sort_iff.2 ⟨?_, ?_⟩)
+  · intro _ _ _
+    simpa only [Equiv.Perm.coe_inv, Function.comp_apply, Equiv.apply_symm_apply]
+  · intros
+    simp_all [(Equiv.bijective σ⁻¹).1 ((Equiv.bijective σ).1 _)]
```
Comment (Citronhat) [inline Mathlib/Data/Fin/Tuple/Sort.lean]: ### Style

* You can use `.symm` on an expression over `Eq.symm …` when you’re just flipping a goal. It tends to read more “Lean-native” and avoids an extra `apply`. So `apply (… ).symm` rather than `apply Eq.symm (… )`.
* Generally avoid “squeezing” terminal simp calls (`simpa only [...]`) unless there’s a real need. Mathlib style generally prefers `simpa` / `simp` and letting simp do its job (see “squeezing simp calls” in the [style guide](https://leanprover-community.github.io/contribute/style.html#squeezing-simp-calls).

### Suggestion

The first subgoal is basically “monotone of `id`”, and the second can be discharged by a short contradiction argument without `simp_all` gymnastics. Something like:

```lean
@[simp] theorem sort_perm (σ : Equiv.Perm (Fin n)) :
    sort σ = σ⁻¹ := by
  apply (eq_sort_iff.2 ⟨?_ , ?_⟩).symm
  · simpa using monotone_id
  · intro _ _ hij h
    exact (hij.ne (by simpa using h)).elim
```

This is a bit shorter and avoids relying on `simp_all` with a hard-to-read lemma list.

File: Mathlib/Data/Fin/Tuple/Sort.lean [hunk 2]
```diff
@@ -199,4 +199,23 @@ entries. -/
...
+
 end Tuple
+
+theorem Equiv.Perm.monotone_iff {n : ℕ} (σ : Perm (Fin n)) :
```
Comment (Citronhat) [inline Mathlib/Data/Fin/Tuple/Sort.lean:213]: ### Suggestion

The current proof works, but it’s a bit more “manual” than necessary (two `constructor` branches, `inv_eq_one.mp` twice, etc.). A list of rewrites does the trick:

```lean
theorem Equiv.Perm.monotone_iff {n : ℕ} (σ : Perm (Fin n)) :
    Monotone σ ↔ σ = 1 := by
  rw [← Tuple.sort_eq_refl_iff_monotone, Tuple.sort_perm, ← inv_eq_one, one_def]
```

This feels more “mathlib-style”: fewer explicit `constructor` blocks, and it uses rewriting to let simp-level lemmas close the goal.

**Review by Citronhat — COMMENTED** [review]
Thanks for the PR! Sorry this hasn’t gotten attention yet — I’m also a relatively new contributor, but I had a look and left a few concrete suggestions below. Hopefully this helps move things forward.

File: Mathlib/Data/Fin/Tuple/Sort.lean (hunk 1 above)
Comment (felixpernegger) [reply Mathlib/Data/Fin/Tuple/Sort.lean]: Thanks, this looks much better.

By the way, you can make suggestions directly in github, then its easier to edit them in.

File: Mathlib/Data/Fin/Tuple/Sort.lean (hunk 2 above)
Comment (felixpernegger) [reply Mathlib/Data/Fin/Tuple/Sort.lean:213]: nice

File: Mathlib/Data/Fin/Tuple/Sort.lean (hunk 1 above)
Comment (felixpernegger) [reply Mathlib/Data/Fin/Tuple/Sort.lean]: I'm just really bad at writing beautiful proofs :')

Comment (Citronhat) [reply Mathlib/Data/Fin/Tuple/Sort.lean]: No problem at all 🙂

Ah, right ... you mean like diff-style code suggestions? That would definitely had made the review look more polished.  Thanks for the tip - I will try to use it in future reviews.

And no worries about proof aesthetics. Mine all tend to start out quite ugly. They usually get cleaner only after a few rounds of refactoring or review.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
